US04910306
A solution of 50 ml of benzene, 4.0 g (22.7 mmole) of 2,6-dichloro-3-methylaniline, 10.67 ml (80.8 mmole) of trimethylsilyl bromide, and 13.1 ml (94.0 mmole) of triethylamine was heated at reflux over 42 hours. The product was isolated as described in Example 1 to provide 4.14 g (16.7 mmole, 73.5 percent yield) of 98.0 percent pure N-trimethylsilyl-2,6-dichloro-3-methylaniline as a light yellow oil, b.p. 64°-68° C. at 0.03 mm.

reactant | 2,6-dichloro-3-methylaniline | 22.7 mmole, 4.0 g | ClC1=C(N)C(=CC=C1C)Cl | C7H7Cl2N
reactant | trimethylsilyl bromide | 80.8 mmole, 10.67 ml | C[Si](C)(C)Br | C3H9BrSi
reactant | triethylamine | 94.0 mmole, 13.1 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | N-trimethylsilyl-2,6-dichloro-3-methylaniline | 16.7 mmole, 4.14 g, 73.5 percent yield | C[Si](NC1=C(C(=CC=C1Cl)C)Cl)(C)C | C10H15Cl2NSi
